US06251911B1
With the exclusion of air, 1.86 g (7.49 mmol) of N′-[3-(morpholin-4-yl)-4-cyano-1 H-pyrazol-5-yl]-N,N-dimethyl-formamidine in 45 ml of methanol are heated to boiling with 1.84 g (11.2 mmol) of 3-chloro-aniline hydrochloride, during which the solid temporarily dissolves. After about 30 min, a precipitate separates out again. After 8 hours the reaction mixture is cooled, filtered and washed with methanol and DIPE. Stirring the crude product in a boiling mixture of 40 ml of ethanol, 20 ml of chloroform and 20 ml of dioxane yields 4-(3-chloro-phenylamino)-3-(morpholin-4-yl)-1H-pyrazolo[3,4-d]pyrimidine; m.p. 275-276° C.; HPLC:tRet(grad20-100/20)=11.6.

reactant | N′-[3-(morpholin-4-yl)-4-cyano-1 H-pyrazol-5-yl]-N,N-dimethyl-formamidine | 7.49 mmol, 1.86 g | N1(CCOCC1)C1=NNC(=C1C#N)N=CN(C)C | C11H16N6O
reactant | 3-chloro-aniline hydrochloride | 11.2 mmol, 1.84 g | Cl.ClC=1C=C(N)C=CC1
solvent | methanol | 45 ml | CO | CH4O
product | 4-(3-chloro-phenylamino)-3-(morpholin-4-yl)-1H-pyrazolo[3,4-d]pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2N2CCOCC2 | C15H15ClN6O
